US05688803
2 ml of trimethylsilylhydroxylamine (15 mmol) were sprayed at room temperature into a suspension of 2.64 g of ethyl 7-chloro-4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxylate (10 mmol) in 2.0 ml of dimethylformamide. After heating to 100° C. all passed slowly into solution. The reaction mixture was left to stir at 80° C. for 2 hrs., cooled to room temperature and stirred overnight. After the addition of 6 ml of water a voluminous precipitate separated and was filtered off, washed with water and dried in a high vacuum. 1.48 g of 7-chloro-4,N-dihydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxamide (58%) were obtained as pale beige crystals.

reactant | trimethylsilylhydroxylamine | 15 mmol, 2 ml | C[Si](C)(C)NO | C3H11NOSi
reactant | ethyl 7-chloro-4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxylate | 10 mmol, 2.64 g | ClC1=CC=C2C(=C(C(NC2=C1)=O)C(=O)OCC)O | C12H10ClNO4
reactant | water | 6 ml | O | H2O
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 7-chloro-4,N-dihydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxamide | 1.48 g, 58% | ClC1=CC=C2C(=C(C(NC2=C1)=O)C(=O)NO)O | C10H7ClN2O4
